US07625886B2
(R)-2-[4-(4-acetyl-piperazin-1-yl)-piperidin-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 1 h from 600 mg (1.18 mmol) (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenzoxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 275 mg (1.30 mmol) 1-(4-piperidin-4-yl-piperazin-1-yl)-ethanone.

reactant | (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenzoxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 1.18 mmol, 600 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(O3)=O)C(=C1)C)C(=O)O)C=CC=C2 | C26H28N4O7
reactant | 1-(4-piperidin-4-yl-piperazin-1-yl)-ethanone | 1.30 mmol, 275 mg | N1CCC(CC1)N1CCN(CC1)C(C)=O | C11H21N3O
product | (R)-2-[4-(4-acetyl-piperazin-1-yl)-piperidin-1-yl]-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C(C)=O)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C37H47N7O7
